US04020079
A mixture of 42.3 parts of 2-(1-adamantylthio)ethylamine, 10.8 parts of sodium methoxide, 39.0 parts of 2-bromo-2-tert-butyl acetic acid and 315 parts of tert-butanol is refluxed, under a nitrogen atmosphere, for 5 hours. The product is recovered in the manner described in Example 5 to yield 2-tert-butyl-N-[2-(1 -adamantylthio)ethyl-]glycine, melting at about 220°-230°.

reactant | 2-(1-adamantylthio)ethylamine | C12(CC3CC(CC(C1)C3)C2)SCCN | C12H21NS
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-bromo-2-tert-butyl acetic acid | BrC(C(=O)O)C(C)(C)C | C6H11BrO2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 2-tert-butyl-N-[2-(1 -adamantylthio)ethyl-]glycine | C(C)(C)(C)C(NCCSC12CC3CC(CC(C1)C3)C2)C(=O)O | C18H31NO2S
